US09145427B2
tert-Butyl (3E)-3-[(dimethylamino)methylidene]-4-oxopiperidine-1-carboxylate was condensed with propan-2-ylhydrazine; removal of the protecting group provided 2-(propan-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-c]pyridine.

reactant | tert-Butyl (3E)-3-[(dimethylamino)methylidene]-4-oxopiperidine-1-carboxylate | CN(C)\C=C\1/CN(CCC1=O)C(=O)OC(C)(C)C | C13H22N2O3
reactant | propan-2-ylhydrazine | CC(C)NN | C3H10N2
product | 2-(propan-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[4,3-c]pyridine | CC(C)N1N=C2C(CNCC2)=C1 | C9H15N3
